US07786108B2
Step 2. Preparation of (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid 2-amino-ethyl ester
To a solution of (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride (0.08 mmol) in dimethylformamide (3 mL), add (2-Hydroxy-ethyl)-carbamic acid tert-butyl ester (0.24 mmol) and dimethylaminopyridine (0.08 mmol). Next, add sodium hydride (0.24 mmol) and stir at room temperature for 0.5 h. Quench the reaction with water (15 mL) and dilute with ethyl acetate (10 mL). Separate the organic phase and wash the aqueous with ethyl acetate (2×10 mL). Dry the combined organics over sodium sulfate, filter, and remove solvent under vacuum. Dissolve the crude 5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid 2-tert-butoxycarbonylamino-ethyl ester intermediate in dichloromethane (5 mL) and add trifluoroacetic acid (2 mL). After stirring for 1 h, quench the reaction with concentrated sodium carbonate (5 mL). Dilute the reaction with dichloromethane (10 mL) and water (10 mL). Separate the organic phase and wash the aqueous with dichloromethane (2×10 mL). Dry the combined organics over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel, eluting with methanol/dichloromethane (0-5%), to afford the title compound as a colorless foam. MS (ES+): 640 (M+H).

reactant | (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride | 0.08 mmol | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)C(=O)Cl)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C24H20ClF9N6O
reactant | (2-Hydroxy-ethyl)-carbamic acid tert-butyl ester | 0.24 mmol | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
reactant | dimethylaminopyridine | 0.08 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | sodium hydride | 0.24 mmol | [H-].[Na+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid 2-amino-ethyl ester | NCCOC(=O)N1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C26H26F9N7O2
